### PR TITLE
Monads, functor algebras, Eilenberg-Moore algebras

### PR DESCRIPTION
**Pull request by anuyts**
Monads (not via internal monoids in the category of endofunctors).

### CODE REVIEW

File: Cubical/Categories/Monad/Base.agda [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+  IsPointed : Type (ℓ-max ℓ ℓ')
+  IsPointed = NatTrans (funcId C) M
+
+  record IsMonad : Type (ℓ-max ℓ ℓ') where
+    field
+      η : IsPointed
+      μ : NatTrans (funcComp M M) M
+      idl-μ : PathP (λ i → NatTrans (F-rUnit {F = M} i) M) (compTrans μ (η ∘ˡ M)) (idTrans M)
+      idr-μ : PathP (λ i → NatTrans (F-lUnit {F = M} i) M) (compTrans μ (M ∘ʳ η)) (idTrans M)
+      assoc-μ : PathP (λ i → NatTrans (F-assoc {F = M} {G = M} {H = M} i) M) (compTrans μ (M ∘ʳ μ)) (compTrans μ (μ ∘ˡ M))
```
Comment (mortberg) [inline Cubical/Categories/Monad/Base.agda:28]: Long line

File: Cubical/Categories/Instances/FunctorAlgebras.agda [hunk 2]
```diff
@@ -0,0 +1,101 @@
...
+    F-hom F (carrierHom algF ⋆⟨ C ⟩ carrierHom algG) ⋆⟨ C ⟩ str algC ∎
+
+  AlgebrasCategory : Category (ℓ-max ℓC ℓC') ℓC'
+  ob AlgebrasCategory = Algebra
+  Hom[_,_] AlgebrasCategory = AlgebraHom
+  id AlgebrasCategory = idAlgebraHom
+  _⋆_ AlgebrasCategory = seqAlgebraHom
+  ⋆IdL AlgebrasCategory algF = AlgebraHom≡ (⋆IdL C (carrierHom algF))
+  ⋆IdR AlgebrasCategory algF = AlgebraHom≡ (⋆IdR C (carrierHom algF))
+  ⋆Assoc AlgebrasCategory algF algG algH = AlgebraHom≡ (⋆Assoc C (carrierHom algF) (carrierHom algG) (carrierHom algH))
```
Comment (mortberg) [inline Cubical/Categories/Instances/FunctorAlgebras.agda:93]: Long line

File: Cubical/Categories/Instances/FunctorAlgebras.agda [hunk 3]
```diff
@@ -0,0 +1,101 @@
...
+        (isOfHLevelPath' 1 (isSetHom C) _ _)
+      (strHom algF) (strHom algG))))
+    i
+
+  idAlgebraHom : {algA : Algebra} → AlgebraHom algA algA
+  carrierHom (idAlgebraHom {algA}) = id C
+  strHom (idAlgebraHom {algA}) =
+    ⋆IdR C (str algA) ∙∙ sym (⋆IdL C (str algA)) ∙∙ cong (λ φ → φ ⋆⟨ C ⟩ str algA) (sym (F-id F))
+
+  seqAlgebraHom : {algA algB algC : Algebra} (algF : AlgebraHom algA algB) (algG : AlgebraHom algB algC) → AlgebraHom algA algC
```
Comment (mortberg) [inline Cubical/Categories/Instances/FunctorAlgebras.agda:69]: Long line

File: Cubical/Categories/Instances/FunctorAlgebras.agda [hunk 4]
```diff
@@ -0,0 +1,101 @@
...
+  isoRepAlgebraHom : (algA algB : Algebra) → AlgebraHom algA algB ≅ RepAlgebraHom algA algB
+  fun (isoRepAlgebraHom algA algB) (algebraHom f isalgF) = f , isalgF
+  inv (isoRepAlgebraHom algA algB) (f , isalgF) = algebraHom f isalgF
+  rightInv (isoRepAlgebraHom algA algB) (f , isalgF) = refl
+  leftInv (isoRepAlgebraHom algA algB) (algebraHom f isalgF)= refl
+
+  pathRepAlgebraHom : (algA algB : Algebra) → AlgebraHom algA algB ≡ RepAlgebraHom algA algB
+  pathRepAlgebraHom algA algB = ua (isoToEquiv (isoRepAlgebraHom algA algB))
+
+  AlgebraHom≡ : {algA algB : Algebra} {algF algG : AlgebraHom algA algB} → (carrierHom algF ≡ carrierHom algG) → algF ≡ algG
```
Comment (mortberg) [inline Cubical/Categories/Instances/FunctorAlgebras.agda:55]: Long line

**Review by mortberg — CHANGES_REQUESTED** [review]
Looks good to me apart from some long lines! Would be happy to merge as soon as they've been shortened a bit

**Comment by mortberg** [comment]
Thanks for the contribution!
